### PR TITLE
feat(Data/Finsupp/Basic): range of `equivMapDomain`

### PR DESCRIPTION
**Pull request by NoahW314**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Finsupp/Basic.lean [hunk 1]
```diff
@@ -184,6 +184,12 @@ theorem prod_equivMapDomain [CommMonoid N] (f : α ≃ β) (l : α →₀ M) (g
     prod (equivMapDomain f l) g = prod l (fun a m => g (f a) m) := by
   simp [prod, equivMapDomain]
 
+theorem range_equivMapDomain (f : α ≃ β) (l : α →₀ M) :
+    Set.range (equivMapDomain f l) = Set.range l := by
+  ext x
+  simp only [Set.mem_range, equivMapDomain_apply]
+  exact ⟨fun ⟨y, hy⟩ ↦ ⟨f.symm y, hy⟩, fun ⟨y, hy⟩ ↦ ⟨f y, by rwa [Equiv.symm_apply_apply]⟩⟩
```
Comment (BoltonBailey) [inline Mathlib/Data/Finsupp/Basic.lean:191]:
```suggestion
theorem range_equivMapDomain (f : α ≃ β) (l : α →₀ M) :
    Set.range (equivMapDomain f l) = Set.range l :=
  f.symm.surjective.range_comp l
```

Seems this shorter term-mode proof works. 

Also, perhaps these could be a simp lemmas?
